US05216020
Step A: Preparation of 2,3-dihydro-2-n-propylthieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide
The title compound was prepared in substantially the same way was 2,3-dihydro-2-methylthieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide. Thus, 2,3-dihydrothieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide (10.5 g, 0.048 mol) when reacted with NaH (5.76 g, 60% dispersion in oil) and n-propyl iodide (14 mL, 0.047 mol) in DMF (200 mL) gave the title compound as a gum (11.3 g, 90%).

reactant | 2,3-dihydro-2-methylthieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide | CC1(CC2=C(SC=C2)S1(=O)=O)C(=O)O | C8H8O4S2
reactant | 2,3-dihydrothieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide | 0.048 mol, 10.5 g | S1(C(CC2=C1SC=C2)C(=O)O)(=O)=O | C7H6O4S2
reactant | NaH | 5.76 g | [H-].[Na+]
reactant | n-propyl iodide | 0.047 mol, 14 mL | C(CC)I | C3H7I
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2,3-dihydro-2-n-propylthieno[2,3-b]thiophene-2-carboxylic acid-1,1-dioxide | 11.3 g, 90% | C(CC)C1(CC2=C(SC=C2)S1(=O)=O)C(=O)O | C10H12O4S2
